US08420828B2
1-(1H-Benzo[d]imidazol-6-yl)-5-isopropyl-3-methoxy-4-methyl-1H-pyrrol-2(5H)-one
The compound was synthesized starting from KOH (15 eq in water), diazald (8 eq), ethylene glycol/Et2O (1/2 v/v, 30 ml), 1-(1H-Benzo[d]imidazol-6-yl)-5-isopropyl-3-hydroxy-4-methyl-1H-pyrrol-2(5H)-one (0.500 g, 1.83 mmol, 1 eq) and MeOH (10 ml); yield: 0.040 g (7.6%); MS m/z: 286.1 [M+H]+; 1H-NMR: (400 MHz, DMSO-D6) δ: 0.54 (d, 3H), 0.94-0.92 (q, 3H), 1.95 (t, 3H), 3.86 (s, 1H), 4.73 (s, 1H), 7.26-7.15 (m, 1H), 7.65-7.51 (m, 2H), 8.22 (d, 1H), 12.46 (d, 1H); HPLC (METHOD [A]): rt 8.32 min (96.64%)

reactant | KOH | 15 eq | [OH-].[K+]
reactant | diazald | 8 eq | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | ethylene glycol Et2O | 30 ml | C(CO)O.CCOCC
reactant | 1-(1H-Benzo[d]imidazol-6-yl)-5-isopropyl-3-hydroxy-4-methyl-1H-pyrrol-2(5H)-one | 1.83 mmol, 0.500 g, 1 eq | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C(C)C)C)O)=O | C15H17N3O2
solvent | MeOH | 10 ml | CO | CH4O
product | 1-(1H-Benzo[d]imidazol-6-yl)-5-isopropyl-3-methoxy-4-methyl-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C(C)C)C)OC)=O | C16H19N3O2
